US04644025
Ortho-iodobenzoic acid was reacted with excess thionyl chloride for 3 hours at reflux, and thionyl chloride was distilled off under reduced pressure to obtain ortho-iodobenzoic acid chloride. This was reacted with allyl alcohol in a dichloromethane solvent in the presence of a triethyl amine catalyst to obtain allyl ortho-iodobenzoate. The yield after purification by distillation or like process was repeated was 73%.

reactant | Ortho-iodobenzoic acid | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | ortho-iodobenzoic acid chloride | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
